* C:\ltspice\circuit.asc
V1 +V 0 12V Rser=0
V2 0 -V 12V Rser=0
V3 Vi 0 SINE(0 .015 100)
R1 V1st N002 62K pwr=5
R2 N002 0 6.2K tol=5
R3 N004 V1st 8.2K tol=5
R4 V2nd N004 56K tol=5
R5 V3rd N003 56K tol=5
R6 N003 V2nd 8.2K tol=5
C1 V1C V3rd 820nF
R7 V1C 0 10k
R9 Vpoweramp 0 8
R11 N006 V1C 10K
R12 Vpoweramp N006 10K
Q1 +V N001 N005 0 Qmje15034
Q2 -V N001 N007 0 Qmje15035
D1 N005 Vpoweramp D
D2 Vpoweramp N007 D
XU5 0 N006 +V -V N001 ADA4700-1
XU6 0 N003 +V -V V3rd ADA4700-1
XU7 0 N004 +V -V V2nd ADA4700-1
XU8 Vi N002 +V -V V1st ADA4700-1
.model D D
.lib C:\Users\fishi\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\fishi\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran .1
* Preamp
* Filters
* Poweramp
.inc MJE15034.LIB
.inc MJE15035.LIB
.inc LF411C.LIB
.lib ADI1.lib
.backanno
.end
