* C:\ltspice\circuit.asc
V1 +V 0 12V Rser=1
V2 0 -V 12V Rser=1
V3 Vi 0 SINE(0 .015 20000)
R1 V1st N002 62K pwr=5
R2 N002 0 6.2K tol=5
R3 N004 V1st 8.2K tol=5
R4 V2nd N004 56K tol=5
R5 V3rd N003 56K tol=5
R6 N003 V2nd 8.2K tol=5
C1 V1C V3rd 820nF
R7 V1C 0 10k
R9 Vpoweramp 0 8
R11 N006 V1C 10K
R12 Vpoweramp N006 10K
Q1 +V N001 N005 0 Qmje15034
Q2 -V N001 N007 0 Qmje15035
D1 N005 Vpoweramp D
D2 Vpoweramp N007 D
C2 +V 0 1000nF V=10 Irms=0 Rser=4 Lser=0
C5 +V 0 5000nF
C3 0 -V 1000nF V=10 Irms=0 Rser=4 Lser=0
C4 0 -V 5000nF
XU6 Vi N002 +V -V V1st level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU7 0 N004 +V -V V2nd level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU8 0 N003 +V -V V3rd level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU5 0 N006 +V -V N001 LF411/MC
.model D D
.lib C:\Users\fishi\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\fishi\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran .0005
* Preamp
* Filters
* Poweramp
.inc MJE15034.LIB
.inc MJE15035.LIB
.inc LF411.LIB
.lib UniversalOpamps2.sub
.backanno
.end
